US03987047
5-(Ethoxy-carbonyloxy)-2,3,4,5-tetrahydro-1H-2-azepino [4,3-b]quinoline-carboxylic acid ethyl ester was prepared from 5-hydroxy-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline and ethyl chloroformate analogous to Example 63.

reactant | 5-hydroxy-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline | OC1CCNCC=2C1=NC=1C=CC=CC1C2 | C13H14N2O
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 5-(Ethoxy-carbonyloxy)-2,3,4,5-tetrahydro-1H-2-azepino [4,3-b]quinoline-carboxylic acid ethyl ester | Yield: 80% | C(C)OC(=O)N1CC=2C(=NC=3C=CC=CC3C2)C(CC1)OC(=O)OCC | C19H22N2O5
